US09340527B2
ethyl 1-((6-(((1R,2S,5R)-2-isopropyl-5-methylcyclohexyl)oxy)naphthalen-2-yl)methyl)piperidine-4-carboxylate
The preparation of ethyl 1-((6-(((1R,2S,5R)-2-isopropyl-5-ethylcyclohexyl)oxy)naphthalen-2-yl)methyl)piperidine-4-carboxylate was the same as that of ethyl 1-((6-((cis-4-phenylcyclohexyl)oxy)naphthalen-2-yl)methyl)piperidine-4-carboxylate. 82 mg, slight yellow oil, yield: 38%. ESI-MS (M+1)+: 452.2. 1H NMR (400 MHz, CDCl3) δ: 7.66-7.63 (m, 3H), 7.40-7.39 (m, 1H), 7.08-7.05 (m, 2H), 4.12-4.03 (m, 3H), 3.54 (s, 2H), 2.84-2.80 (m, 1H), 2.25-2.15 (m, 2H), 1.81-1.69 (m, 1H), 1.70-1.66 (m, 2H), 1.25-1.15 (m, 11H), 1.10-0.91 (m, 4H), 0.87 (d, J=6.8 Hz, 6H), 0.71 (d, J=6.8 Hz, 3H).

reactant | ethyl 1-((6-(((1R,2S,5R)-2-isopropyl-5-ethylcyclohexyl)oxy)naphthalen-2-yl)methyl)piperidine-4-carboxylate | C(C)(C)[C@H]1[C@@H](C[C@@H](CC1)CC)OC=1C=C2C=CC(=CC2=CC1)CN1CCC(CC1)C(=O)OCC | C30H43NO3
reactant | ethyl 1-((6-((cis-4-phenylcyclohexyl)oxy)naphthalen-2-yl)methyl)piperidine-4-carboxylate | C1(=CC=CC=C1)[C@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)CN1CCC(CC1)C(=O)OCC | C31H37NO3
product | ethyl 1-((6-(((1R,2S,5R)-2-isopropyl-5-methylcyclohexyl)oxy)naphthalen-2-yl)methyl)piperidine-4-carboxylate | yield: 38% | C(C)(C)[C@H]1[C@@H](C[C@@H](CC1)C)OC=1C=C2C=CC(=CC2=CC1)CN1CCC(CC1)C(=O)OCC | C29H41NO3
